data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4762,5437,[CH3:6][NH:7][C:8](=[O:9])[C-:10]([O+:11]=[C:12]([C:13]([CH3:14])=[O:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22](=[O:23])[NH:24][CH3:25].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:12]([C:13]([CH3:14])=[O:15])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:11][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,34.15849581011633,11.491162404208724
5089,5777,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24](=[O:25])[O:26][CH3:27])[o+:28]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:23]1([C:24](=[O:25])[O:26][CH3:27])[C:21](=[O:22])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[O:28]1,water,298.15,19.888248629537067,-5.926908219976884
1417,1559,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[NH+:17][C-:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[O:25][CH3:26].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([F:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:18]([C:19](=[O:20])[NH:21][CH3:22])([C:23](=[O:24])[O:25][CH3:26])[NH:17][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,24.48147692133832,-27.17801201348659
501,547,[CH3:19][C:20]#[N+:21][NH-:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[c:8]2[c:9]([c:20]([CH3:19])[n:21][nH:22]2)[C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1,water,298.15,6.71686643498023,-94.8629706889665
4275,4890,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]([CH3:18])=[O:19])([C:20]([CH3:21])=[O:22])[N:14]([CH3:15])[CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,25.86564102607441,-9.26737282486108
5166,5864,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28]([CH3:29])=[O:30]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[O:20][CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:28]([CH3:29])=[O:30],water,298.15,28.871391102926783,-11.55499689633366
2660,2953,[CH2-:21][N+:22]([CH3:23])=[C:24]([C:25]([CH3:26])=[O:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[CH2:21][N:22]([CH3:23])[C:24]2([C:25]([CH3:26])=[O:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,14.908812616570223,-43.27778222163723
1636,1807,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[C:21]2([CH3:22])[C:23](=[O:24])[NH:25][CH3:26],water,298.15,35.491913916513866,-20.317020360868405
5053,5741,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([CH3:18])[C:19](=[O:20])[NH:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:16][C:17]2([CH3:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,11.787485206920948,-54.02172133648744
811,878,[CH3:13][C-:14]([CH3:15])[NH+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:14]([CH3:13])([CH3:15])[NH:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,9.192827955354328,-31.950724069101128
3053,3418,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[CH-:9][N+:10]#[C:11][C:12]([CH3:13])=[O:14]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:9]([C:7]([O:6][CH3:5])=[O:8])[N:10]=[C:11]1[C:12]([CH3:13])=[O:14],water,298.15,18.74912593813176,-43.0435271641114
